US09062092B2
A solution of (S)-1-[(S)-2-((S)-2-hydroxy-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid [(R)-1-(7-bromo-quinolin-2-yl)-ethyl]-amide (212 mg, 0.4 mmol), crude (R)-2-methyl-2-trifluoromethoxymethyl-but-3-enoic acid (95 mg), tri(o-tolyl)phosphine (24 mg, 0.08 mmol) and triethylamine (121 mg, 0.17 mL, 1.2 mmol) in 1,4-dioxane (10 mL) was stirred at 50° C. under nitrogen. Trs(dibenzylideneacetone)dipalladium(0) (36 mg, 0.04 mmol) was added and the reaction mixture was heated at reflux for 40 minutes. The reaction mixture was cooled to room temperature and the mixture was filtered through a hydrophobic frit and the filtrate was evaporated to afford crude (E)-(R)-4-{2-[(R)-1-({(S)-1-[(S)-2-((S)-2-hydroxy-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carbonyl}-amino)-ethyl]-quinolin-7-yl}-2-methyl-2-trifluoromethoxymethyl-but-3-enoic acid which was used in the next step. LCMS (m/z) 652.1 [M+H], Tr=2.17 min.

reactant | (S)-1-[(S)-2-((S)-2-hydroxy-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid [(R)-1-(7-bromo-quinolin-2-yl)-ethyl]-amide | 0.4 mmol, 212 mg | BrC1=CC=C2C=CC(=NC2=C1)[C@@H](C)NC(=O)[C@H]1NN(CCC1)C([C@H](C)NC([C@H](C(C)C)O)=O)=O | C24H32BrN5O4
reactant | (R)-2-methyl-2-trifluoromethoxymethyl-but-3-enoic acid | 95 mg | C[C@@](C(=O)O)(C=C)COC(F)(F)F | C7H9F3O3
reactant | tri(o-tolyl)phosphine | 0.08 mmol, 24 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 1.2 mmol, 0.17 mL, 121 mg | C(C)N(CC)CC | C6H15N
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (E)-(R)-4-{2-[(R)-1-({(S)-1-[(S)-2-((S)-2-hydroxy-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carbonyl}-amino)-ethyl]-quinolin-7-yl}-2-methyl-2-trifluoromethoxymethyl-but-3-enoic acid | O[C@H](C(=O)N[C@H](C(=O)N1N[C@@H](CCC1)C(=O)N[C@H](C)C1=NC2=CC(=CC=C2C=C1)/C=C/[C@@](C(=O)O)(COC(F)(F)F)C)C)C(C)C | C31H40F3N5O7
